US06313127B1
4-(Naphthalene-2-sulphonyl)benzaldehyde (0.97 g) was suspended in water (25 ml) containing cetyltrimethylammonium bromide (58 mg). The mixture was stirred and heated to 60° C., and potassium permanganate (0.95 g) was added in small portions over 1 hour. Heating was continued for a further 2 hours. The mixture was cooled to room temperature and was acidified with 2M hydrochloric acid. Ethyl acetate was added to the stirred mixture, which was filtered through a pad of celite. The ethyl acetate layer was washed with brine, dried (MgSO4), and evaporated to afford 4-(naphthalene-2-sulphonyl)benzoic acid (0.42 g) as solid residue; NMR: 7.7(dd,1H); 7.95(dd,1H), 8.1-8.2(m,8H); 8.7(d,1H); microanalysis, found; C,58.6; H,3.9%; C17H12O4S.2H2O requires: C,58.6; H,4.6%; MS: m/z 312(M H)+.

reactant | 4-(Naphthalene-2-sulphonyl)benzaldehyde | 0.97 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)C1=CC=C(C=O)C=C1 | C17H12O3S
reactant | potassium permanganate | 0.95 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | hydrochloric acid | 2M | Cl | ClH
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 25 ml | O | H2O
catalyst | cetyltrimethylammonium bromide | 58 mg | [Br-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
product | 4-(naphthalene-2-sulphonyl)benzoic acid | 0.42 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C17H12O4S
